US07750034B2
Step A: tert-Butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate
To 8.0 g (35 mmol) of tert-butyl trans-3-azido-4-hydroxypyrrolidine-1-carboxylate (the compound from Step A of Intermediate 11) in 117 mL of ethanol was added 500 mg of 10% palladium on carbon. The reaction mixture was purged with hydrogen gas and held under 1 atmosphere of hydrogen for 40 h. The mixture was filtered through a pad of Celite and the filter cake was successively washed with three portions of 100 mL of methanol. The combined filtrate and washings were concentrated and used without further purification. LC/MS 103 (M+1-100).

reactant | tert-butyl trans-3-azido-4-hydroxypyrrolidine-1-carboxylate | 35 mmol, 8.0 g | N(=[N+]=[N-])[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H16N4O3
solvent | ethanol | 117 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
product | tert-Butyl trans-3-amino-4-hydroxypyrrolidine-1-carboxylate | N[C@@H]1CN(C[C@H]1O)C(=O)OC(C)(C)C | C9H18N2O3
